US07704995B2
3-(5-Amino-6-formylpyrazin-2-yl)-N-benzylbenzamide:
A solution of 3-amino-6-{3-[(benzylamino)carbonyl]phenyl}-N-methoxy-N-methylpyrazine-2-carboxamide (2.5 g, 6.4 mmol) in THF (20 mL) was cooled to 0° C. Under N2 lithium aluminum hydride (0.364g, 9.58 mmol) was added and the reaction was stirred at 0° C. for 1 h. The mixture was then quenched with H2O at 0° C. Removal of solids via filtration, concentration of the filtrate and dissolution of the solid residue in H2O followed by washing 3× with dichloromethane gave the product (1.90 g, 89% yield) with sufficient purity to be used without further purification.

reactant | 3-amino-6-{3-[(benzylamino)carbonyl]phenyl}-N-methoxy-N-methylpyrazine-2-carboxamide | 6.4 mmol, 2.5 g | NC=1C(=NC(=CN1)C1=CC(=CC=C1)C(=O)NCC1=CC=CC=C1)C(=O)N(C)OC | C21H21N5O3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(5-Amino-6-formylpyrazin-2-yl)-N-benzylbenzamide | 1.90 g, 89% yield | NC=1N=CC(=NC1C=O)C=1C=C(C(=O)NCC2=CC=CC=C2)C=CC1 | C19H16N4O2
